US07186729B2
Step 2: (R)-3-(4-Chloro-benzyloxy)-pyrrolidine
A solution of (R)-3-(4-chlorobenzyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.88 mmol) in dichloromethane cooled at 0° C. was treated with trifluoroacetic acid (20%) and warmed to room temperature and stirred for 2 h. The reaction mixture was concentrated in vacuo, diluted with ethyl acetate and free based with 10% aqueous sodium bicarbonate. The combined organics were dried over sodium sulfate. The product was used without any further purification. ESI-MS m/z: 211(M+1), WV retention time: 0.97 min.

reactant | (R)-3-(4-chlorobenzyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.88 mmol | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)OCC1=CC=C(C=C1)Cl | C16H22ClNO3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (R)-3-(4-Chloro-benzyloxy)-pyrrolidine | ClC1=CC=C(CO[C@H]2CNCC2)C=C1 | C11H14ClNO
